US04254116
5,5-Dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine
A mixture of 2.23 g. of 2-benzyl-5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine, 0.8 g. (10%) palladium on carbon, and 100 ml. of xylene was stirred and refluxed for 24 hours. After removal of the catalyst, the filtrate was evaporated in vacuo and the residue was recrystallized from acetonitrile; m.p. 154°-156°.

reactant | 2-benzyl-5,5-dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-1,2,3,4-tetrahydro-5H-[1]benzopyrano[3,4-d]pyridine | C(C1=CC=CC=C1)N1CCC2=C(C1)C1=C(OC2(C)C)C=C(C=C1O)C(C)C(CCCCC)C | C30H41NO2
catalyst | palladium on carbon | [Pd] | Pd
solvent | xylene | C=1(C(=CC=CC1)C)C | C8H10
product | 5,5-Dimethyl-10-hydroxy-8-(3-methyl-2-octyl)-5H-[1]benzopyrano[3,4-d]pyridine | CC1(OC2=C(C(=CC(=C2)C(C)C(CCCCC)C)O)C=2C1=CC=NC2)C | C23H31NO2
